US09227976B2
Step 3: 1-methyl-3-phenyl-pyrazolo[3,4-c]pyridazin-4-ol
A suspension of 1-(5-amino-1-methyl-3-phenyl-pyrazol-4-yl)ethanone (241 mg, 1.12 mmol) in cHCl (6.7 mL) and water (1 mL) was cooled to −5° C. A solution of sodium nitrite (155 mg, 2.24 mmol) in water (0.6 mL) was added and the reaction mixture was stirred at −5° C. for 20 min, then at room temperature for 10 min, then at 65° C. for 30 min and finally cooled to room temperature. The reaction mixture was filtered and the solid was washed with cHCl (2 mL), suspended in MeOH/CH2Cl2 (9:1), filtered and dried, to yield the title compound as a solid (125 mg).

reactant | 1-(5-amino-1-methyl-3-phenyl-pyrazol-4-yl)ethanone | 1.12 mmol, 241 mg | NC1=C(C(=NN1C)C1=CC=CC=C1)C(C)=O | C12H13N3O
reactant | sodium nitrite | 2.24 mmol, 155 mg | N(=O)[O-].[Na+]
solvent | cHCl | 6.7 mL | [CH]Cl | CHCl
solvent | water | 1 mL | O | H2O
solvent | water | 0.6 mL | O | H2O
product | 1-methyl-3-phenyl-pyrazolo[3,4-c]pyridazin-4-ol | 125 mg | CN1N=C(C2=C1N=NC=C2O)C2=CC=CC=C2 | C12H10N4O
